US06762320B2
a) [4-(3-Fluoro-benzyloxy)-phenyl]-methyl-amine
0.855 g (8.4 mmol) acetic anhydride is cooled to 0° and 0.475 g (10.3 mmol) acetic acid added dropwise. The reaction mixture is then heated to 55° for 2 hours. After cooling to room temperature the mixture is diluted with 0.5 ml dry tetrahydrofuran. A solution of 0.7 g (3.2 mmol) 4-(3-fluoro-benzyloxy)-phenylamine in 2 ml tetrahydrofuran is added dropwise at room temperature and the resulting mixture is stirred for 3 hours. Evaporation leaves a solid which is dissolved again in 2 ml tetrahydrofuran and cooled to 0°. 0.64 g (8.1 mmol) borane-methyl sulfide complex is slowly added under stirring and cooling. The mixture is stirred 1 h at 0° and 2 h at room temperature. After addition of 5 ml methanol, stirring is pursued for 1 h. The mixture is treated with 10 ml 1M aqueous hydrochloric acid and stirred overnight. The organic solvents are removed under vacuum and the aqueous phase adjusted to pH=10 bei addition of potassium carbonate. Extraction with diethyl ether, drying and evaporation yields 0.57 g (76%) of a colorless solid. MS: m/e=232.2 (M++H).

reactant | acetic anhydride | 8.4 mmol, 0.855 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 10.3 mmol, 0.475 g | C(C)(=O)O | C2H4O2
reactant | 4-(3-fluoro-benzyloxy)-phenylamine | 3.2 mmol, 0.7 g | FC=1C=C(COC2=CC=C(C=C2)N)C=CC1 | C13H12FNO
reactant | hydrochloric acid | 1M, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | [4-(3-Fluoro-benzyloxy)-phenyl]-methyl-amine | 0.57 g, 76% | FC=1C=C(COC2=CC=C(C=C2)NC)C=CC1 | C14H14FNO
